US05677324
(3S,4R)-3,4-Dihydro-6-(1-[3-ethoxycarbonylprop-1-yl]-1H -tetrazol-5-yl)-3-hydroxy-4-(2-methylthiopyrimidin-4-yl)amino-2,2,3-trimethyl-2H-benzo[b]pyran
A mixture containing (3S,4R)-4-amino-3,4-dihydro-6-(1-[3-ethoxycarbonylprop-1-yl]-1H-tetrazol-5-yl)-3-hydroxy-2,2,3-trimethyl-2H-benzo[b]pyran (see Preparation 55) (0.6 g), 4-chloro-2-methylthiopyrimidine (0.5 g), anhydrous potassium carbonate (0.7 g) and anhydrous dimethylacetamide (5 ml) was heated at 120° C. for 24 hours. On cooling to room temperature water (10 ml) was added and the mixture was extracted with ethyl acetate (2×50 ml). The extracts were combined and washed with water (50 ml) then concentrated in vacuo to give an oil which was purified by chromatography on silica eluting with dichloromethane containing ethyl acetate (40%). The product-containing fractions were combined and concentrated in vacuo to give a foam which was further purified by chromatography on silica eluting with dichloromethane containing isopropanol (3.3%). The product-containing fractions were combined and concentrated in vacuo to give an oil which was triturated with hexane to give the title compound as a foam, 0.077 g, m.p. 115°-130° C.

reactant | (3S,4R)-4-amino-3,4-dihydro-6-(1-[3-ethoxycarbonylprop-1-yl]-1H-tetrazol-5-yl)-3-hydroxy-2,2,3-trimethyl-2H-benzo[b]pyran | 0.6 g | N[C@@H]1C2=C(OC([C@@]1(C)O)(C)C)C=CC(=C2)C2=NN=NN2CCCC(=O)OCC | C19H27N5O4
reactant | 4-chloro-2-methylthiopyrimidine | 0.5 g | ClC1=NC(=NC=C1)SC | C5H5ClN2S
reactant | potassium carbonate | 0.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylacetamide | 5 ml | CC(=O)N(C)C | C4H9NO
solvent | water | 10 ml | O | H2O
product | (3S,4R)-3,4-Dihydro-6-(1-[3-ethoxycarbonylprop-1-yl]-1H -tetrazol-5-yl)-3-hydroxy-4-(2-methylthiopyrimidin-4-yl)amino-2,2,3-trimethyl-2H-benzo[b]pyran | C(C)OC(=O)CCCN1N=NN=C1C1=CC2=C(OC([C@@]([C@@H]2NC2=NC(=NC=C2)SC)(C)O)(C)C)C=C1 | C24H31N7O4S
